US09422249B2
N-(5-(4-bromophenyl)-6-(2-hydroxyethoxy)pyrimidin-4-yl)propane-1-sulfamide (One Pot Preparation)
N-(5-(4-bromophenyl)-6-chloropyrimidin-4-yl)propane-1-sulfamide (100 g; 0.246 mol; see Preparation A) and KOtBu (110 g; 0.99 mol; 4.0 eq.) were charged into a 2 L reactor. Toluene (1 L) was added. The resulting suspension was stirred at 20° C. for 5 min. 2-(tert-butoxy)ethanol (97 mL; 0.74 mol; 3.0 eq.) was added dropwise. After completion of the addition, the reaction mixture was heated to 85° C. for 2 h. After completion of the reaction, the mixture was cooled down to 20° C. Water (0.5 L) was added, followed by the addition of 10% aq. citric acid (0.5 L). The layers were separated. The org. phase was washed with brine 3 times (0.5 L each) and azeotropically dried with toluene (1 L) to a volume of approx. 1 L. The reaction mixture was heated to 50° C. A 1M solution of TiCl4 in toluene (420 mL, 0.42 mol; 1.7 eq.) was added dropwise with vigorous stirring. After completion of the addition, it was stirred at 35° C. for 20 h. Water (0.75 L) was added and the resulting beige suspension was stirred for 15 h. It was filtered off, rinsed with toluene (300 mL) and dried to afford the title compound as a white solid (91 g; 86% yield; purity (LC-MS): 100% a/a).

reactant | N-(5-(4-bromophenyl)-6-chloropyrimidin-4-yl)propane-1-sulfamide | CCCNS(=O)(=O)NC1=C(C(=NC=N1)Cl)C2=CC=C(C=C2)Br | C13H14BrClN4O2S
reactant | KOtBu | 0.99 mol, 110 g, 4.0 eq. | CC(C)(C)[O-].[K+]
reactant | 2-(tert-butoxy)ethanol | 0.74 mol, 97 mL, 3.0 eq. | C(C)(C)(C)OCCO | C6H14O2
reactant | citric acid | 0.5 L | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | TiCl4 | Cl[Ti](Cl)(Cl)Cl
solvent | Water | 0.75 L | O | H2O
solvent | Water | 0.5 L | O | H2O
solvent | Toluene | 1 L | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.42 mol, 420 mL, 1.7 eq. | C1(=CC=CC=C1)C | C7H8
product | N-(5-(4-bromophenyl)-6-(2-hydroxyethoxy)pyrimidin-4-yl)propane-1-sulfamide | 91 g, 86% yield | CCCNS(=O)(=O)NC1=C(C(=NC=N1)OCCO)C2=CC=C(C=C2)Br | C15H19BrN4O4S
